US08058045B2
tert-Butyl 4-((6-(5-cyano-6-methoxypyrazin-2-ylamino)pyrimidin-4-ylamino)methyl)piperidine-1-carboxylate
A solution of 5-(6-chloropyrimidin-4-ylamino)-3-methoxypyrazine-2-carbonitrile (4.5 mg, 0.017 mmol), tert-butyl 4-(aminomethyl)piperidine-1-carboxylate (4 mg, 0.034 mmol) and triethylamine (12 uL, 0.085 mmol) in acetonitrile (1.5 mL) was heated at 145° C. for 90 min using microwave irradiation. The solvent was removed in vacuo and the crude mixture was purified by preparative thin layer chromatography, eluting with dichloromethane/MeOH (10/1), to give the title compound as a yellow oil (3 mg, 40%).

reactant | 5-(6-chloropyrimidin-4-ylamino)-3-methoxypyrazine-2-carbonitrile | 0.017 mmol, 4.5 mg | ClC1=CC(=NC=N1)NC=1N=C(C(=NC1)C#N)OC | C10H7ClN6O
reactant | tert-butyl 4-(aminomethyl)piperidine-1-carboxylate | 0.034 mmol, 4 mg | NCC1CCN(CC1)C(=O)OC(C)(C)C | C11H22N2O2
reactant | triethylamine | 0.085 mmol, 12 uL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
product | tert-Butyl 4-((6-(5-cyano-6-methoxypyrazin-2-ylamino)pyrimidin-4-ylamino)methyl)piperidine-1-carboxylate | 3 mg, 40% | C(#N)C=1N=CC(=NC1OC)NC1=CC(=NC=N1)NCC1CCN(CC1)C(=O)OC(C)(C)C | C21H28N8O3
